US06630600B1
2-Methylpropanoic acid anhydride (24.15 g; 153 mmole) was slowly added to a warm solution of 4-aminophenethyl alcohol (21 g; 153 mmole) in acetone (200 ml). The reaction mixture was refluxed for 1 hour and then more 2-methylpropanoic acid anhydride (1 g) was added. The reflux was continued for 1.5 hours and then the solvent was evaporated in vacuo. Recrystallization of the solid residue in dichloromethane:heptane gave 30.7 g (yield 97%) N-[4-(2-hydroxyethyl)phenyl]isobutyramide as white crystals.

reactant | 2-Methylpropanoic acid anhydride | 153 mmole, 24.15 g | CC(C(=O)OC(C(C)C)=O)C | C8H14O3
reactant | 4-aminophenethyl alcohol | 153 mmole, 21 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | heptane | CCCCCCC | C7H16
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | 2-methylpropanoic acid anhydride | 1 g | CC(C(=O)OC(C(C)C)=O)C | C8H14O3
product | N-[4-(2-hydroxyethyl)phenyl]isobutyramide | 30.7 g, yield 97% | OCCC1=CC=C(C=C1)NC(C(C)C)=O | C12H17NO2
